* source PROIECT
R_R1         +VCC OUT+ R_R1 69.8k TC=0,0 
.model        R_R1 RES R=1 DEV=1% TC1=0 TC2=0
R_R2         OUT+ 0  {R} TC=0,0 
R_R3         +VCC OUT- R_R3 69.8k TC=0,0 
.model        R_R3 RES R=1 DEV=1% TC1=0 TC2=0
R_R4         OUT- 0 R_R4 69.8k TC=0,0 
.model        R_R4 RES R=1 DEV=1% TC1=0 TC2=0
V_VCC         +VCC 0 17Vdc
V_-VCC         -VCC 0 -17Vdc
X_U1         OUT+ N00929 +VCC -VCC N00929 uA741
X_U2         OUT- N00866 +VCC -VCC N00866 uA741
X_U3         N00969 N01192 +VCC -VCC OUT_DIF uA741
R_R6         0 N00969 R_R6 73.2k TC=0,0 
.model        R_R6 RES R=1 DEV=1% TC1=0 TC2=0
R_R5         N00969 N00929 R_R5 10k TC=0,0 
.model        R_R5 RES R=1 DEV=1% TC1=0 TC2=0
R_R7         N01192 N00866 R_R7 10k TC=0,0 
.model        R_R7 RES R=1 DEV=1% TC1=0 TC2=0
R_R8         OUT_DIF N01192 R_R8 73.2k TC=0,0 
.model        R_R8 RES R=1 DEV=1% TC1=0 TC2=0
X_U4         N01965 3V +VCC -VCC 3V uA741
R_R11         0 N01965 R_R11 3.01k TC=0,0 
.model        R_R11 RES R=1 DEV=1% TC1=0 TC2=0
R_R10         N01965 +VCC R_R10 14k TC=0,0 
.model        R_R10 RES R=1 DEV=1% TC1=0 TC2=0
X_U5         N02814 N02838 +VCC -VCC OUT_SUMATOR uA741
R_R12         3V N02814 R_R12 1k TC=0,0 
.model        R_R12 RES R=1 DEV=1% TC1=0 TC2=0
R_R9         OUT_DIF N02814 R_R9 1k TC=0,0 
.model        R_R9 RES R=1 DEV=1% TC1=0 TC2=0
R_R14         N02838 OUT_SUMATOR R_R14 1k TC=0,0 
.model        R_R14 RES R=1 DEV=1% TC1=0 TC2=0
R_R13         0 N02838 R_R13 1k TC=0,0 
.model        R_R13 RES R=1 DEV=1% TC1=0 TC2=0
X_U6         OUT_SUMATOR N04056 +VCC -VCC N04418 uA741
X_U7         OUT_SUMATOR N04068 +VCC -VCC N05327 uA741
X_U8         OUT_SUMATOR N04080 +VCC -VCC N05339 uA741
X_U9         OUT_SUMATOR N04092 +VCC -VCC N05351 uA741
R_R18         N04068 N04056  1.5k TC=0,0 
R_R17         N04080 N04068  1.13k TC=0,0 
R_R16         N04092 N04080  3.32k TC=0,0 
R_R15         N04092 +VCC  7.87k TC=0,0 
R_R19         N04056 0  3.09k TC=0,0 
R_R20         N04875 +VCC  750 TC=0,0 
D_D1          N04875 0 led_rosu 
D_D2          N05266 0 led_portocaliu 
R_R21         N05266 N04418  732 TC=0,0 
D_D3          N05420 0 led_galben 
R_R22         N05420 N05327  732 TC=0,0 
D_D4          N05539 0 led_albastru 
R_R23         N05539 N05339  681 TC=0,0 
D_D5          N05659 0 led_alb 
R_R24         N05659 N05351  665 TC=0,0 
.PARAM  lux=300 r={(({lux}+2500)*1k)/40}
